US06194425B1
Ethyl 2-(5-methyl-1H-tetrazol-1-yl)nicotinate (6.3 g, 27 mmole) was covered with N,N-dimethylformamide (50 mL), potassium ethoxide (4.5 g, 54 mmole) was added and the reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was poured into ice water containing about 17 mL of acetic acid. The resulting precipitate was isolated by filtration, washed with water then dried to provide 4.5 g of tetrazolo[1,5-a][1,8]naphthyridin-5-ol as an off white solid, m.p. 236° (decomposition). Analysis: Calculated for C8H5N5O: % C, 51.34; % H, 2.69; % N, 37.42; Found: % C, 51.23; % H, 2.77; % N, 37.25.

reactant | Ethyl 2-(5-methyl-1H-tetrazol-1-yl)nicotinate | 27 mmole, 6.3 g | CC1=NN=NN1C1=C(C(=O)OCC)C=CC=N1 | C10H11N5O2
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | potassium ethoxide | 54 mmole, 4.5 g | [O-]CC.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | tetrazolo[1,5-a][1,8]naphthyridin-5-ol | 4.5 g | N1=NN=C2N1C1=NC=CC=C1C(=C2)O | C8H5N5O
